US06440995B1
A mixture containing aniline (0.7 ml, 7.7 mmol), p-toluene sulfonic acid (0.037 g,0.19 mmol) and (RS)-3-oxo-3-(1,2,3,4-tetrahydro-naphthalen-2-yl)-propionic acid ethyl ester (1.9 g, 7.7 mmol) in toluene (10 ml) was refluxed for 2.5 hours, and water was removed azeotropically. Reaction mixture was concentrated, diluted with diphenylether (8 ml), refluxed for 45 min., cooled to room temperature and diluted with Et2O (150 ml). The resulting solid was filtered, washed with Et,O and CH2Cl2 to provide (RS)-2-(1,2,3,4-Tetrahydro-naphthalen-2-yl)-1H-quinolin-4-one (0.67 g, 32%) as a light yellow solid, mp.>300° C., MS: m/e=275 (M+).

reactant | aniline | 7.7 mmol, 0.7 ml | NC1=CC=CC=C1 | C6H7N
reactant | (RS)-3-oxo-3-(1,2,3,4-tetrahydro-naphthalen-2-yl)-propionic acid ethyl ester | 7.7 mmol, 1.9 g | C(C)OC(CC(C1CC2=CC=CC=C2CC1)=O)=O | C15H18O3
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluene sulfonic acid | 0.19 mmol, 0.037 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (RS)-2-(1,2,3,4-Tetrahydro-naphthalen-2-yl)-1H-quinolin-4-one | 0.67 g, 32% | C1C(CCC2=CC=CC=C12)C=1NC2=CC=CC=C2C(C1)=O | C19H17NO
